US07964643B2
4′-Bromo-biphenyl sulfonic acid
4′-Bromobiphenyl (14 g) was dissolved in chloroform (140 mL) at room temperature. Chlorosulfonic acid (8.4 g) was added dropwise and a precipitate appeared soon after addition was complete. Stirring was continued for a further 4 hours, after which the solid was collected by filtration. Further crops of crystals were collected from the filtrate. The solid was washed with cold chloroform and the washings also allowed to crystallise, to give the title compound.

reactant | 4′-Bromobiphenyl | 14 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | Chlorosulfonic acid | 8.4 g | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 140 mL | C(Cl)(Cl)Cl | CHCl3
product | 4′-Bromo-biphenyl sulfonic acid | BrC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)O | C12H9BrO3S
